US04719248
Synthesis of 2-(2-hydroxy-5-methacrylamidophenyl)-5-chlorobenzotriazole
To 10.4 g. (0.04 mole) of 2-(2-hydroxy-5-aminophenyl)-5-chlorobenzotriazole and 4.1 g. triethylamine in 400 ml. methylene chloride (no preservative) was added at 0°-5° C., under nitrogen, with stirring, 4.2 g. methacryloyl chloride in 30 ml. methylene chloride. The dropwise addition required about 30 minutes. The mixture was stirred at 0°-5° C. for an additional 30 minutes and then at room temperature for one hour. The mixture was then washed with equal volumes of water, 5% hydrochloric acid and water. The organic phase was dried over magnesium sulfate and poured onto a 2" column of silica gel (120 g.) which had been slurry packed with methylene chloride. The column was eluted with methylene chloride and 100 ml. fractions were taken. The fractions were examined by thin layer chromatography (TLC) on silica gel plates using 1:5, ethyl acetate:chloroform as the developing solvent. The fractions containing the product (r.f. 0.36) were combined and evaporated. The residual solid was crystallized from ethanol to give 2.2 g. of product, m.p. 204°-205° C.

reactant | 2-(2-hydroxy-5-aminophenyl)-5-chlorobenzotriazole | 0.04 mole | OC1=C(C=C(C=C1)N)N1N=C2C(=N1)C=CC(=C2)Cl | C12H9ClN4O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(2-hydroxy-5-methacrylamidophenyl)-5-chlorobenzotriazole | OC1=C(C=C(C=C1)NC(C(=C)C)=O)N1N=C2C(=N1)C=CC(=C2)Cl | C16H13ClN4O2
